US07138413B1
α-(4-Acetylphenoxy)-α′-piperidino p-xylol
Hydroxyacetophenone (2 mmol) and 5 mmol of K2CO3 were stirred in 20 ml of acetone with 2 ml of DMF for 10 minutes. After addition of 3.5 mmol of α,α′-dibromoxylol the reaction was stirred at ambient temperature for 12 hours and after addition of 7 mmol of piperidine for 1 hour under reflux. The solvent was evaporated under reduced pressure. The residue was suspended in water, extracted with methylene chloride. The combined organic extracts were crystallized with oxalic acid. Recrystallization resulted in the pure product.

reactant | Hydroxyacetophenone | 2 mmol | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | K2CO3 | 5 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | α,α′-dibromoxylol | 3.5 mmol | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | piperidine | 7 mmol | N1CCCCC1 | C5H11N
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | α-(4-Acetylphenoxy)-α′-piperidino p-xylol | C(C)(=O)C1=CC=C(OCC2=CC=C(C=C2)CN2CCCCC2)C=C1 | C21H25NO2
